US08193378B2
A solution of ethyl 1-[(7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-5-fluoro-2H-chromen-3-yl)methyl]-1H-pyrazole-4-carboxylate (100 mg) and a 1 M aqueous NaOH solution (0.55 mL) in EtOH/THF (3 mL/1 mL) was stirred at 100° C. for 2 hours, neutralized with 1 M HCl, and extracted with chloroform. The organic layer was washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 90:10) and the obtained solid was washed with IPE to obtain 1-[(7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-5-fluoro-2H-chromen-3-yl)methyl]-1H-pyrazole-4-carboxylic acid (71 mg) as a white solid.

reactant | ethyl 1-[(7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-5-fluoro-2H-chromen-3-yl)methyl]-1H-pyrazole-4-carboxylate | 100 mg | FC(C1=C(COC2=CC(=C3C=C(COC3=C2)CN2N=CC(=C2)C(=O)OCC)F)C=CC(=C1)C(F)(F)F)(F)F | C25H19F7N2O4
reactant | NaOH | 1 M, 0.55 mL | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | EtOH THF | 3 mL | CCO.C1CCOC1
product | 1-[(7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-5-fluoro-2H-chromen-3-yl)methyl]-1H-pyrazole-4-carboxylic acid | 71 mg | FC(C1=C(COC2=CC(=C3C=C(COC3=C2)CN2N=CC(=C2)C(=O)O)F)C=CC(=C1)C(F)(F)F)(F)F | C23H15F7N2O4
